US05843949
2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl acetamide furmarate
A a mixture of 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine (2.56 g, 9.7 mmol) and triethylamine (1.45 g, 14.5 mmol) in DCM (50 ml) was treated with dropwise addition of acetyl chloride (1.0 g, 12.7 mmol) at room temperature. The mixture was stirred for 4 hours at room temperature. The reaction mixture was diluted with DCM and washed with brine. The organic solution was dried over MgSO4 and concentrated to a crude oil. The crude oil was purified by flash chromatography over a silica gel column (SiO2, 20 g; eluted with (0-2%) CH3OH in DCM). The pure product thus obtained weighed 1.36 g (46%). It was converted to a fumarate salt by treatment with fumaric acid (517 mg) in ethanol. Recrystallization from ethanol gave white crystals; weight: 1.53 g, m.p.=132°-133° C.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethylamine | 9.7 mmol, 2.56 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN)C=C1 | C14H18FN3O
reactant | triethylamine | 14.5 mmol, 1.45 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 12.7 mmol, 1.0 g | C(C)(=O)Cl | C2H3ClO
reactant | fumaric acid | 517 mg | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl acetamide | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCC(=O)N)C=C1 | C16H20FN3O2
